US05770735
A) 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)-1-tert-butylcarbonylpiperidine
12.4 g of di-tert-butyl dicarbonate are added to a solution of 13 g of 3-(2-hydroxyethyl)-3-(3,4-dichlorophenyl)piperidine (+) in 100 ml of dioxane. The mixture is then stirred for 1 hour at 40° C. It is evaporated to dryness and the residue is taken up in ether and washed with water, then a buffer solution of pH 2 and finally water. The ether phase is dried over Na2SO4, filtered and evaporated to dryness. The residue is purified by chromatography on silica gel using CH2 Cl2 /CH3OH 100/2 (v/v) as the eluent. 16.7 g of the expected product are thus obtained in the form of an oil after concentration of the pure fractions.

reactant | di-tert-butyl dicarbonate | 12.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(2-hydroxyethyl)-3-(3,4-dichlorophenyl)piperidine | 13 g | OCCC1(CNCCC1)C1=CC(=C(C=C1)Cl)Cl | C13H17Cl2NO
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)-1-tert-butylcarbonylpiperidine | 16.7 g | OCCC1(CN(CCC1)C(=O)C(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C18H25Cl2NO2
